US07176242B2
Step 2 (3-Oxo-cyclohexyl)-acetic acid was prepared in 70% yield from 2-(3-oxo-cyclohexyl)-malonic acid diethyl ester by the method described above for the synthesis of (3-oxo-4-propyl-cyclohexyl)-acetic acid: 1H NMR (300 MHz, CDCl3) δ 2.58–1.92 (m, 7H), 1.80–1.61 (m, 1H), 1.52–1.42 (m, 1H); ESI MS m/z 155 [M−H]−.

reactant | 2-(3-oxo-cyclohexyl)-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)C1CC(CCC1)=O)=O | C13H20O5
reactant | (3-oxo-4-propyl-cyclohexyl)-acetic acid | O=C1CC(CCC1CCC)CC(=O)O | C11H18O3
product | (3-Oxo-cyclohexyl)-acetic acid | 70% yield | O=C1CC(CCC1)CC(=O)O | C8H12O3
